US09278950B2
A mixture of benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate (0.017 g, 0.024 mmol) in 1.5 mL of MeOH was hydrogenated in the presence of 10% Pd on carbon (10 mg) under a balloon of hydrogen at room temperature for 1 h. The mixture was filtered and the filtrate was concentrated under reduced pressure to give tert-butyl {(3S,5R)-1-[3-({[3-amino-7-(tetrahydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-3-yl}carbamate (0.012 g, 87%). LCMS calc. for C31H41N6O4 [M+H]+: m/z=561.3. found: 561.4. To the intermediate made above was added 1 mL of 4 M HCl in dioxane and 1 mL of MeOH. The mixture was stirred at room temperature for 1 h, then evaporated under vacuum. The residue was dissolved in 4.5 mL of MeOH and treated with 0.3 mL of NH4OH solution. The mixture was filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C26H33N6O2 [M+H]+: m/z=461.3. found: 461.3.

reactant | benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate | 0.024 mmol, 0.017 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCOCC1 | C39H44N6O6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 1.5 mL | CO | CH4O
catalyst | Pd on carbon | 10 mg | [Pd] | Pd
product | tert-butyl {(3S,5R)-1-[3-({[3-amino-7-(tetrahydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-3-yl}carbamate | 0.012 g, 87% | NC=1C(=NC2=CC(=CC=C2C1)C1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C31H40N6O4
